US04281019
A solution of 20.7 g. of 4-(allylamino)phenylacetic acid in 25 ml. of hexamethylphosphoramide is added to a stirred mixture of 0.800 g. of sodium hydride (57% in mineral oil) and 25 ml. of hexamethylphosphoramide. The solution which forms after one hour is treated with 11.0 g. of methyl iodide and is then stirred at 25° C. for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield methyl 4-(allylamino)phenylacetate.

reactant | 4-(allylamino)phenylacetic acid | C(C=C)NC1=CC=C(C=C1)CC(=O)O | C11H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl 4-(allylamino)phenylacetate | C(C=C)NC1=CC=C(C=C1)CC(=O)OC | C12H15NO2
